US05672712
Ethyl 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylate (22.07 g) was added to a suspension of 60% oily sodium hydride (3.08 g) in N,N-dimethylformamide (hereinafter referred to as DMF) (300 ml) under ice-cooling, followed by stirring at room temperature for an hour. A solution of methyl iodide (4.8 ml) in DMF (50 ml) was added dropwise to the reaction mixture, followed by further stirring at room temperature for an hour. The reaction mixture was taken up in 3% hydrochloric acid, and the precipitated crystals were collected by filtration, and the resulting crude crystals were recrystallized from a mixture of methylene chloride and methanol to give ethyl 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate (15.97 g).

reactant | Ethyl 2-(4-cyanobenzoylamino)-4-methylthiazole-5-carboxylate | 22.07 g | C(#N)C1=CC=C(C(=O)NC=2SC(=C(N2)C)C(=O)OCC)C=C1 | C15H13N3O3S
reactant | sodium hydride | 3.08 g | [H-].[Na+]
reactant | methyl iodide | 4.8 ml | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | Cl | ClH
product | ethyl 2-(4-cyanobenzoylimino)-3,4-dimethylthiazoline-5-carboxylate | 15.97 g | C(#N)C1=CC=C(C(=O)N=C2SC(=C(N2C)C)C(=O)OCC)C=C1 | C16H15N3O3S
